US08372874B2
Acetic anhydride (24 uL, 0.26 mmol) and a catalytic amount of DMAP are added in sequence to a solution of N-[3-(2-hydroxy-1,1-dimethyl-ethyl)-isoxazol-5-yl]-2-methyl-2-(tetrahydro-pyran-4-sulfonyl)-propionamide (80.0 mg, 0.21 mmol) and pyridine (21 uL, 0.26 mmol) in anhydrous DCM (2.1 mL). The solution is stirred at room temperature until complete consumption of starting material. After removal of the solvent under reduced pressure, the crude is purified by silica gel column chromatography to afford 71 mg of acetic acid 2-methyl-2-{5-[2-methyl-2-(tetrahydro-pyran-4-sulfonyl)-propionylamino]-isoxazol-3-yl}-propyl ester. Yield: 80%; m/z 417 [M+H].

reactant | Acetic anhydride | 0.26 mmol, 24 uL | C(C)(=O)OC(C)=O | C4H6O3
reactant | N-[3-(2-hydroxy-1,1-dimethyl-ethyl)-isoxazol-5-yl]-2-methyl-2-(tetrahydro-pyran-4-sulfonyl)-propionamide | 0.21 mmol, 80.0 mg | OCC(C)(C)C1=NOC(=C1)NC(C(C)(S(=O)(=O)C1CCOCC1)C)=O | C16H26N2O6S
reactant | pyridine | 0.26 mmol, 21 uL | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 2.1 mL | C(Cl)Cl | CH2Cl2
product | acetic acid 2-methyl-2-{5-[2-methyl-2-(tetrahydro-pyran-4-sulfonyl)-propionylamino]-isoxazol-3-yl}-propyl ester | 71 mg, Yield: 80% | CC(COC(C)=O)(C)C1=NOC(=C1)NC(C(C)(S(=O)(=O)C1CCOCC1)C)=O | C18H28N2O7S
